Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / lisinopril / Sudafed
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
Flexible sigmoidoscopy ___
attach
 
Pertinent Results:
ADMISSION LABS:

___ 07:53PM BLOOD WBC-14.2* RBC-5.47* Hgb-16.5* Hct-47.5* 
MCV-87 MCH-30.2 MCHC-34.7 RDW-14.4 RDWSD-43.9 Plt ___
___ 07:53PM BLOOD Neuts-74* Bands-3 Lymphs-11* Monos-5 
Eos-2 ___ Metas-5* AbsNeut-10.93* AbsLymp-1.56 AbsMono-0.71 
AbsEos-0.28 AbsBaso-0.00*
___ 09:01PM BLOOD ___ PTT-27.0 ___
___ 08:08PM BLOOD Glucose-148* UreaN-9 Creat-0.9 Na-132* 
K-4.6 Cl-95* HCO3-20* AnGap-17
___ 08:08PM BLOOD ALT-29 AST-37 LD(LDH)-398* AlkPhos-72 
TotBili-0.5
___ 08:08PM BLOOD Albumin-3.1*
___ 07:53PM BLOOD Lactate-2.9*

IMPORTANT INTERIM RESULTS:

___ 07:00AM BLOOD CRP-33.5*
___ 08:08PM BLOOD Lactate-2.7*
___ 05:25AM BLOOD Lactate-1.2

MICRO:

C diff PCR - NEGATIVE

___ Blood Culture - NEGATIVE (FINAL)

STOOL CULTURES -

___ 9:01 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 
      FEW POLYMORPHONUCLEAR LEUKOCYTES. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      No E. coli O157:H7 found. 

   FECAL CULTURE - R/O YERSINIA (Final ___:    NO YERSINIA 
FOUND. 

O and P x2 - Pending

 Test                          Result              Reference 
Range/Units
HELICOBACTER PYLORI AG, EIA,  SEE NOTE            
STOOL                                             
 
  HELICOBACTER PYLORI AG, EIA, STOOL 
  
  Micro Number:      ___
  Test Status:       Final
  Specimen Source:   STOOL
  Specimen Quality:  Adequate
  H.pylori Ag:       Not Detected
                      
                     Antimicrobials, proton pump inhibitors, and
                     bismuth preparations inhibit H. pylori and
                     ingestion up to two weeks prior to testing 
may
                     cause false negative results. If clinically
                     indicated the test should be repeated on a 
new
                     specimen obtained two weeks after 
discontinuing
                     treatment.
THIS TEST WAS PERFORMED AT:
___ LLC
___ ___  ___ 
___
Comment: ___, ___

IMAGING/STUDIES:

___ CT ABD & PELVIS WITH CO
1. Acute pancolitis which may be secondary to infection versus
ischemia. 
2. Multiple low-attenuation pancreatic lesions at the pancreatic
body. Further evaluation with outpatient nonemergent MRCP is
recommended. 
3. Mild fat stranding surrounding the pancreatic head and
descending duodenum region with duodenal wall thickening.  This
may be secondary to mild duodenitis/ulcer disease. 
4. Other chronic/incidental findings described as in above. 

___ SIGMOIDOSCOPY
Edema, decreased vascularity, congestion, marked erythema,
exudate, friability and erosion in the [sic] extending beyond 
the
maximal point reached (25cm) compatible with ___ 2 disease.
(Biopsy). Mild diverticulosis of the sigmoid colon.

DISCHARGE LABS:
___ 05:13AM BLOOD WBC-22.0* RBC-4.37 Hgb-13.0 Hct-40.1 
MCV-92 MCH-29.7 MCHC-32.4 RDW-13.3 RDWSD-44.1 Plt ___
___ 05:13AM BLOOD Glucose-147* UreaN-20 Creat-0.7 Na-141 
K-4.9 Cl-102 HCO3-25 AnGap-14
___ 05:13AM BLOOD Calcium-9.1 Phos-3.0 Mg-1.7
___ 05:13AM BLOOD CRP-3.___ is a ___ healthy and functional female 
with h/o HTN, who presents with subacute diarrhea for the past 
few weeks, found with pan-colitis on CT s/p flex sig with 
findings concerning for new diagnosis ulcerative colitis.

TRANSITIONAL ISSUES:
[ ] Multiple low-attenuation pancreatic lesions at the 
pancreatic body. Further evaluation with outpatient non-emergent 
MRCP is recommended. 
[ ] No clear indication for aspirin identified, patient 
encouraged to speak to PCP regarding risk/benefit ratio of 
continuing this - for now patient elects to continue
[ ] Repeat blood pressures, decision on titration of meds iso 
steroid use (amlodipine is new meds this hospitalization)
[ ] can discontinue PPI once off steroids
[ ] GI ___ will be scheduled by GI department. 
Consideration of biologic if ongoing symptoms despite steroids. 
Eventually patient needs full colonoscopy, which she is aware of

ACUTE/ACTIVE PROBLEMS:

# Subacute diarrhea:
# Pan-colitis:
# Likely new diagnosis ulcerative colitis:
Patient initially presented with frequent loose stools, without 
any hematochezia/melena or cramping. CT abdomen with 
pan-colitis. C diff negative. GI consulted; patient underwent 
flex sig on ___ with significant ulcerations concerning for 
new onset ulcerative colitis. She was started on IV SoluMedrol, 
with significant improvement/decrease in stool frequency. On 
___ switched to oral prednisone, with plan for taper (decrease 
by 5mg every 3 days) and ___ in GI.  Final path report 
from biopsies during flex sig still pending at discharge.

# HTN: Initially held HCTZ, normotensive and with ongoing 
diarrhea. Resumed when blood pressure going higher. BP still 
elevated to 150s/160s despite HCTZ, likely due to steroids, 
therefore patient provided prescription for amlodipine on 
discharge.

# Primary prevention: Continued home simvastatin 20, and 
initially held spirin 81mg but patient then elected to resume 
this, although no clear indication for aspirin therefore would 
consider discussing this medication with PCP.

# CODE STATUS = FULL
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Diphenoxylate-Atropine ___ TAB PO Q6H:PRN diarrhea 
2. LOPERamide 2 mg PO Frequency is Unknown 
3. Vitamin D ___ UNIT PO DAILY 
4. Simvastatin 10 mg PO QPM 
5. Hydrochlorothiazide 25 mg PO DAILY 
6. turmeric root extract ___ mg oral ___ times per week 
7. Fish Oil (Omega 3) Dose is Unknown  PO DAILY 
8. flaxseed oil 0 mg oral DAILY 
9. Multivitamins 1 TAB PO DAILY 
10. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Pantoprazole 40 mg PO Q24H 
may discontinue this medication if stopping steroids 
RX *pantoprazole 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  PredniSONE 40 mg PO DAILY 
Taper: decrease by 5mg every three days 
Tapered dose - DOWN 
RX *prednisone 10 mg 1 tablet(s) by mouth once a day Disp #*40 
Tablet Refills:*0 
4.  Fish Oil (Omega 3) 1000 mg PO DAILY 
dose as previously prescribed  
5.  flaxseed oil 1 mg oral DAILY 
dose as previously prescribed  
6.  Aspirin 81 mg PO DAILY  
7.  Hydrochlorothiazide 25 mg PO DAILY  
8.  Multivitamins 1 TAB PO DAILY  
9.  Simvastatin 10 mg PO QPM  
10.  turmeric root extract ___ mg oral ___ times per week  
11.  Vitamin D ___ UNIT PO DAILY  
12. HELD- Diphenoxylate-Atropine ___ TAB PO Q6H:PRN diarrhea  
This medication was held. Do not restart Diphenoxylate-Atropine 
until speak to GI

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
colitis, likely ulcerative

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___,

You were brought in for persistent diarrhea over the past couple 
of months. Your CT of the abdomen showed inflammation of your 
large intestine and so you underwent a colonoscopy on ___ 
and was found to have likely ulcerative colitis. You were 
started on IV steroids, and eventually tapered down to oral 
steroids (prednisone).

Upon discharge, prednisone taper plan as follows:

Take 40mg (4 tablets daily) for two days, then 35 mg (3.5 
tablets) x3 days, then continue to decrease by 5mg every 3 days. 
If you have recurrent diarrhea, you have been instructed to 
increase back up to 40mg of prednisone, and call your 
gastroenterologist.

It was a pleasure taking care of you!

Sincerely, your ___ Team
 
Followup Instructions:
___